US06586423B2
(6-Amino-pyridin-2-yl)-methanol (6-2)
6-Amino-pyridine-2-carboxylic acid methyl ester (6-1, Kelly, T. R.; Lang, F. J.Org.Chem. 1996, 61, 4623-4633) 2.37 g (15.6 mmol) was dissolved in 16 mL anhydrous THF and the resulting solution was cooled to 0° C. LAH (15.6 mL of a 1M solution) was added slowly. An additional 8 mL of THF was added during the addition of LAH to keep the mixture from becoming too viscous. After 3 h the reaction was quenched by the sequential addition of 0.59 mL water, 0.59 mL 15% NaOH (aq), and 1.77 mL water. After stirring for 1 h the mixture was filtered through a plug of celite, washing with THF. The filtrate was concentrated to afford 1.6 g of a yellow oil. Purification by flash column chromatography (eluting with a gradient of CH2Cl2 to 90:10 CH2Cl2/MeOH) afforded the titled compound as a white solid. 1H NMR(CDCl3): δ7.42 (t, 1H, J=7.6 Hz), 6.60 (d, 1H, J=7.7 Hz), 6.41 (d, 1H, J=7.5 Hz), 4.59 (s, 2H), 4.52 (bs, 2H).

reactant | 6-Amino-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1)N | C7H8N2O2
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (6-Amino-pyridin-2-yl)-methanol | 1.6 g | NC1=CC=CC(=N1)CO | C6H8N2O
